US04153703
1-Bromo-1-phenyl-2-propanone (10.6g, 0.050 mole), o-chlorothiobenzamide (8.8g, 0.051 mole), and ethanol (100 ml) are mixed and, after the initial exothermic reaction has subsided, heated under reflux for two hours. The ethanol is evaporated and the residue is treated with chloroform and aqueous sodium bicarbonate. The chloroform layer is separated and evaporated to leave a yellow oil which solidifies on standing. Recrystallization from acetonitrile yields 11.3g (79%) of 2-(2-chlorophenyl)-4-methyl-5-phenylthiazole, m.p. 63°-65° C.

reactant | 1-Bromo-1-phenyl-2-propanone | 0.050 mole, 10.6g | BrC(C(C)=O)C1=CC=CC=C1 | C9H9BrO
reactant | o-chlorothiobenzamide | 0.051 mole, 8.8g | ClC1=C(C(=S)N)C=CC=C1 | C7H6ClNS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-chlorophenyl)-4-methyl-5-phenylthiazole | 11.3g, 79% | ClC1=C(C=CC=C1)C=1SC(=C(N1)C)C1=CC=CC=C1 | C16H12ClNS
